US04560691
A-4. 5-(4-Bromobenzoyl)-6-methyl-2(1H)-pyridinone
The intermediate 3-(4-bromophenyl)-1-methyl-3-oxo-1-propenamine, m.p. 126°-128° C., 56.8 g, was prepared following the procedure described in Example A-2 using 83 g of 1-(4-bromophenyl)-1,3-butanedione, 750 ml of methanol and 100 ml of concentrated aqueous ammonium hydroxide solution. The solid residue after stripping the reaction mixture to dryness on a rotary evaporator was treated with 500 ml of boiling n-hexane, the mixture allowed to stand at room temperature overnight, and, the product collected and dried at room temperature.

reactant | 3-(4-bromophenyl)-1-methyl-3-oxo-1-propenamine | BrC1=CC=C(C=C1)C(C=C(N)C)=O | C10H10BrNO
reactant | 1-(4-bromophenyl)-1,3-butanedione | 83 g | BrC1=CC=C(C=C1)C(CC(C)=O)=O | C10H9BrO2
reactant | ammonium hydroxide | 100 ml | [OH-].[NH4+]
solvent | methanol | 750 ml | CO | CH4O
product | 5-(4-Bromobenzoyl)-6-methyl-2(1H)-pyridinone | BrC1=CC=C(C(=O)C=2C=CC(NC2C)=O)C=C1 | C13H10BrNO2
